US05236952
10.2 g of 4'-hydroxy-3'-methoxy-5'-nitrobutyrophenone are treated with 80 g of pyridine hydrochloride and stirred at 200° for 40 minutes. After cooling the reaction mixture is poured into 500 ml of ice-water. The mixture is treated with 30 ml of 3N hydrochloric acid and extracted with methylene chloride. The organic phase is dried over sodium sulfate and evaporated. The crude product obtained is chromatographed with methylene chloride on 150 g of silica gel. The material obtained is recrystallized from methylene chloride/n-hexane. There is obtained 3',4'-dihydroxy-5'-nitrobutyrophenone in the form of yellow crystals of m.p. 88°-90°.

reactant | 4'-hydroxy-3'-methoxy-5'-nitrobutyrophenone | 10.2 g | OC1=C(C=C(C=C1[N+](=O)[O-])C(CCC)=O)OC | C11H13NO5
reactant | pyridine hydrochloride | 80 g | Cl.N1=CC=CC=C1
solvent | hydrochloric acid | 3N, 30 ml | Cl | ClH
product | 3',4'-dihydroxy-5'-nitrobutyrophenone | OC=1C=C(C=C(C1O)[N+](=O)[O-])C(CCC)=O | C10H11NO5
